US06376491B1
A mixture of 4-(3-amino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (the compound in Example 109-a: 10 mg), 3,5-dimethyl-1-guanylpyrazole nitrate (14 mg) and triethylamine (100 μl) in DMF (1 ml) was stirred at 40° C. for two days. The solvent was removed under a reduced pressure and the residue was purified by reversed phase column chromatography using Sep-Pak Cartridge C18 (Waters) (H2O-MeOH) to give a white powder. The powder was dissolved in a solution of 1N HCl (0.3 ml) and ethanol (5 ml), and the solution was concentrated in vacuo to give 4-(3-guanidino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester hydrochloric acid salt (9 mg) as a white powder. FAB-MS: m/z 320 (MH+); 1H-NMR (CD3OD): δ 1.40 (3H, t, J=7 Hz), 2.18 (2H, quintet, J=6.5 Hz), 2.75 (3H, s), 3.46 (2H, t, J=7 Hz), 4.22 (2H, t, J=6 Hz), 4.39 (2H, q, J=7 Hz), 6.78 (1H, d, J=8 Hz), 7.10 (1H, d, J=8 Hz), 7.39 (1H, t, J=8 Hz).

reactant | 4-(3-amino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCN | C15H19NO4
reactant | 3,5-dimethyl-1-guanylpyrazole nitrate | 14 mg | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(N)=N
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 0.3 ml | Cl | ClH
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(3-guanidino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester hydrochloric acid salt | 9 mg | Cl.C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNC(=N)N | InChI=1S/C16H21N3O4.ClH/c1-3-21-15(20)14-10(2)13-11(6-4-7-12(13)23-14)22-9-5-8-19-16(17)18;/h4,6-7H,3,5,8-9H2,1-2H3,(H4,17,18,19);1H
